US04111934
Preparation of 7-chloro-3,5-dihydro-2-methylamino-5-phenyl-4H-1,5-benzodiazepin-4-one
A suspension of 14.3g (0.05 mol) of 7-chloro-5-phenyl-1,2,3,5-tetrahydro-4H-1,5-benzodiazepin-2,4-dione in 1l of tetrahydrofuran and 200 ml of benzene was saturated with methylamine. A solution of 11.5 g (0.06 mol) of titanium tetrachloride in 200 ml of benzene was added at 0° through a dropping funnel. After stirring at 0° to 10° for 15 min, the mixture was heated to reflux for 1 1/2 hrs. It was then partitioned between water and benzene. The benzene layer was separated, dried and evaporated. Crystallization of the residue form methylene chloride/hexane yielded the above-named product, mp 215°-217°.

reactant | 7-chloro-5-phenyl-1,2,3,5-tetrahydro-4H-1,5-benzodiazepin-2,4-dione | 0.05 mol, 14.3g | ClC1=CC2=C(NC(CC(N2C2=CC=CC=C2)=O)=O)C=C1 | C15H11ClN2O2
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | methylamine | CN | CH5N
solvent | benzene | 200 ml | C1=CC=CC=C1 | C6H6
catalyst | titanium tetrachloride | 0.06 mol, 11.5 g | [Ti](Cl)(Cl)(Cl)Cl
solvent | benzene | 200 ml | C1=CC=CC=C1 | C6H6
product | 7-chloro-3,5-dihydro-2-methylamino-5-phenyl-4H-1,5-benzodiazepin-4-one | ClC1=CC2=C(N=C(CC(N2C2=CC=CC=C2)=O)NC)C=C1 | C16H14ClN3O
